US04421766
Methyl 3-bromo-2,3-diiodoacrylate
0.5 g of 3-bromo-2,3-diiodoacrylic acid was dissolved in 20 ml of diethyl ether. A solution of diazomethane in diethyl ether was then added until nitrogen gas was no longer produced, whereupon the mixture was left to stand for 15 minutes. The diethyl ether was distilled off, giving 0.50 g of the desired compound as an oil.

reactant | 3-bromo-2,3-diiodoacrylic acid | 0.5 g | BrC(=C(C(=O)O)I)I | C3HBrI2O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | Methyl 3-bromo-2,3-diiodoacrylate | 0.50 g | BrC(=C(C(=O)OC)I)I | C4H3BrI2O2
